US09079919B2
In a dry tube under an atmosphere of argon to a solution of (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-6′-bromo-5,5-difluoro-5,6-dihydrospiro[[1,3]oxazine-4,4′-thiochroman]-2-amine (789 mg, 1.21 mmol) in toluene (10 ml) were added consecutively benzophenone imine (439 mg, 2.42 mmol), sodium tert-butoxide (349 mg, 3.63 mmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl {CAS[564483-19-8]} (51.4 mg, 121 μmol), and tris(dibenzylideneacetone)dipalladium(0) chloroform adduct {CAS[52522-40-4]} (37.6 mg, 36.3 μmol). The tube was sealed and the reaction mixture stirred at 110° C. for 15 hours. For the workup, the solvent was evaporated at reduced pressure and the residue purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=0:100 to 70:30 as the eluent. The (R)—N2-(bis(4-methoxyphenyl)(phenyl)methyl)-N6′-(diphenylmethylene)-5,5-difluoro-5,6-dihydrospiro[[1,3]oxazine-4,4′-thiochroman]-2,6′-diamine (613 mg, 67% yield) was obtained as a yellow solid. MS (ISP): m/z=752.5 [M+H]+.

reactant | (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-6′-bromo-5,5-difluoro-5,6-dihydrospiro[[1,3]oxazine-4,4′-thiochroman]-2-amine | 1.21 mmol, 789 mg | COC1=CC=C(C=C1)C(NC=1OCC([C@]2(CCSC3=CC=C(C=C23)Br)N1)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C33H29BrF2N2O3S
reactant | benzophenone imine | 2.42 mmol, 439 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 3.63 mmol, 349 mg | CC(C)([O-])C.[Na+]
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | (R)—N2-(bis(4-methoxyphenyl)(phenyl)methyl)-N6′-(diphenylmethylene)-5,5-difluoro-5,6-dihydrospiro[[1,3]oxazine-4,4′-thiochroman]-2,6′-diamine | 613 mg, 67% yield | COC1=CC=C(C=C1)C(NC=1OCC([C@]2(CCSC3=CC=C(C=C23)N=C(C2=CC=CC=C2)C2=CC=CC=C2)N1)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C46H39F2N3O3S
